US07420001B2
To (S)-3-methyl-2-{4′-[(benzoxazole-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid tert-butyl ester was added 4 mL of TFA/CH2Cl2 (1:1). The solution was stirred at room temperature for 3 h. The solvents were removed under vacuum and the residue was triturated with ether. Filtration gave 90 mg of (S)-3-methyl-2-{4′-[(benzooxazole-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.8 (dd, J=12.6, 6.8 Hz, 6 H) 1.9 (m, 1 H) 3.6 (dd, J=9.3, 6.1 Hz, 1 H) 7.6 (m, 1 H) 7.6 (m, 1 H) 7.8 (m, 6 H) 8.0 (m, 2 H) 8.1 (m, 3 H) 11.4 (s, 1 H).

reactant | (S)-3-methyl-2-{4′-[(benzoxazole-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid tert-butyl ester | C(C)(C)(C)OC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(N1)C=CC=C2)=O | C29H31N3O6S
reactant | TFA CH2Cl2 | 4 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (S)-3-methyl-2-{4′-[(benzooxazole-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid | 90 mg | CC([C@@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(N1)C=CC=C2)C | C25H23N3O6S
